US08071581B2
Step 3: (8-Methyl-quinolin-6-yl)-acetic acid
3.5 g of (8-methyl-quinolin-6-yl)-acetic acid tert-butyl ester in 18 ml of NaOH (4N, aq.) was heated to reflux for 3 h. The mixture was washed with ethyl acetate and the water layer was acidified with 1N hydrochloric acid to pH 4-5 and extracted with dichloromethanfe. The solvent was evaporated and the resulting solid was washed with water and dried in vacuo to return the title compound as an off white solid (1.3 g, 48%). 1H NMR (DMSO-d6, 300 MHz) δ 12.42 (s, 1H), 8.90 (m, 1H), 8.30 (m, 1H), 7.66 (s, 1H), 7.54 (m, 2H), 3.74 (s, 2H), 2.70 (s, 3H).

reactant | (8-methyl-quinolin-6-yl)-acetic acid tert-butyl ester | 3.5 g | C(C)(C)(C)OC(CC=1C=C2C=CC=NC2=C(C1)C)=O | C16H19NO2
solvent | NaOH | 4N, 18 ml | [OH-].[Na+]
product | (8-Methyl-quinolin-6-yl)-acetic acid | CC=1C=C(C=C2C=CC=NC12)CC(=O)O | C12H11NO2
